US04021539
N-propyl-glucamine
The product was made from D-glucose and n-propylamine comparable as in Example A.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | n-propylamine | C(CC)N | C3H9N
product | N-propyl-glucamine | C(CC)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C9H21NO5
